US08557830B2
A mixture of 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-6-methylisoquinolin-1(2H)-one (0.76 g, 1.5 mmol) in phosphorous oxychloride (10 mL, 107 mmol) was stirred in a 100° C. oil bath for 1.0 h. The reaction mixture was allowed to cool to RT, diluted with toluene (100 mL) and concentrated in vacuo. The residue was partitioned between DCM (100 mL) and satd NaHCO3 (70 mL). The aqueous layer was extracted with DCM (50 mL). The combined organic layers were washed with satd NaHCO3 (50 mL), water (50 mL) brine (50 mL), dried over Na2SO4, filtered, and concentrated in vacuo to give 960 mg as a dark red solid. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (80 g), eluting with a gradient of 50% to 80% EtOAc in CH2Cl2, to provide 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-1-chloro-6-methylisoquinoline as a clear viscous oil that solidified to a white solid upon standing. MS (ESI, pos. ion) m/z: 509.2 [M+H]+.

reactant | 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-6-methylisoquinolin-1(2H)-one | 1.5 mmol, 0.76 g | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)OC2=C3C=CNC(C3=CC=C2C)=O)C=C1 | C28H22N6O3
reactant | phosphorous oxychloride | 107 mmol, 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-1-chloro-6-methylisoquinoline | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)OC2=C3C=CN=C(C3=CC=C2C)Cl)C=C1 | C28H21ClN6O2
